* D:\home\brosnan\books\circuits\Circuits-LTSpice\Voltage-elevator-circuits\Cockcroft-walton-multiplier.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 SINE(0 10 50)
D1 0 N002 D
D2 N002 N005 D
C1 N001 N002 1p
C2 0 N005 1p
D3 N005 N003 D
D4 N003 N006 D
C3 N005 N006 1p
D5 N006 N004 D
D6 N004 N007 D
C4 N006 N007 1p
C5 N002 N003 1p
C6 N003 N004 1p
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
* Stage 1
* Stage 2
* Stage 3
* Out1
* Out2
* Out3 = Out
* Cockcroft Walton Multiplier
.backanno
.end
